US06482849B1
A mixture of N-(tert-butoxycarbonyl)-3-nitro-L-tyrosine methyl ester (2.0 g) and 10% Pd—C (1.0 g) in MeOH (10 ml) was subjected to catalytic hydrogenolysis at atmospheric pressure. The catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was triturated with ether to give 3-amino-N-(tert-butoxycarbonyl)-L-tyrosine methyl ester (1.5 g) as a solid. To a solution of the obtained compound (1.0 g) in CH2Cl2 (10 ml) was added 2,6-dichlorobenzoyl chloride (0.74 g) and DIEA (1.1 g) and the mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (eluent; 2:1, Hexane/AcOEt) to give N-(tert-butoxycarbonyl)-3-(2,6-dichlorobenzamido)-L-tyrosine methyl ester (1.2 g). The obtained compound was treated in a similar manner as described in R. Example 4 to give 3-[(2,6-Dichlorobenzoyl)amino]-L-tyrosine methyl ester, hydrochloride salt.

reactant | N-(tert-butoxycarbonyl)-3-nitro-L-tyrosine methyl ester | 2.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C15H20N2O7
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | 3-amino-N-(tert-butoxycarbonyl)-L-tyrosine methyl ester | 1.5 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)O)N)=O | C15H22N2O5
